US07045544B2
Ethyl 5-[(3,3-dimethylbutanoyl)amino]-1-phenyl-1H-indole-2-carboxylate
Under argon, 355 mg (1.27 mmol) of ethyl 5-amino-1-phenyl-1H-indole-2-carboxylate from Example LVII and 141 mg (0.19 ml, 1.39 mmol) of triethylamine are added to 4 ml of THF. The mixture is cooled to 0° C., and a solution of 170 mg (0.18 ml, 1.27 mmol) of 3,3-dimethylbutyryl chloride in 2 ml of THF is added. The mixture is stirred at RT for 2 hours. To bring the reaction to completion, a further 1 eq. of triethylamine and 1 eq. of acid chloride are added and the mixture is stirred at RT for 2 hours. For work-up, the mixture is added to dilute hydrochloric acid and ethyl acetate and extracted. The organic phase is washed with sat. sodium bicarbonate solution, dried with sodium sulphate, filtered and dried under reduced pressure. The resulting crude product is purified by column chromatography (silica gel 60, mobile phase: cyclohexane/ethyl acetate 3:1-1:1).

reactant | ethyl 5-amino-1-phenyl-1H-indole-2-carboxylate | 1.27 mmol, 355 mg | NC=1C=C2C=C(N(C2=CC1)C1=CC=CC=C1)C(=O)OCC | C17H16N2O2
reactant | triethylamine | 1.39 mmol, 0.19 ml, 141 mg | C(C)N(CC)CC | C6H15N
reactant | 3,3-dimethylbutyryl chloride | 1.27 mmol, 0.18 ml, 170 mg | CC(CC(=O)Cl)(C)C | C6H11ClO
reactant | triethylamine | 1 eq. | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 5-[(3,3-dimethylbutanoyl)amino]-1-phenyl-1H-indole-2-carboxylate | CC(CC(=O)NC=1C=C2C=C(N(C2=CC1)C1=CC=CC=C1)C(=O)OCC)(C)C | C23H26N2O3
